* File: DFRRSX1.pex.netlist.pex
* Created: Wed Jun 21 08:15:04 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFRRSX1%D_VDD 1 4 8 12 16 20 24 30 34 38 41 42 46 70 71 72 73 74 75
+ 76 77 78
c114 78 0 0.0742622f
c115 76 0 0.176766f
c116 75 0 0.517082f
c117 74 0 0.175239f
c118 73 0 0.164428f
c119 72 0 0.14674f
c120 71 0 0.173856f
c121 70 0 0.143285f
c122 60 0 0.0701213f
c123 58 0 0.0701213f
c124 56 0 0.0701213f
c125 54 0 0.0701213f
c126 49 0 0.0701213f
c127 46 0 0.314607f
c128 42 0 0.501928f
c129 41 0 0.0898504f
c130 38 0 0.118377f
c131 34 0 0.269938f
c132 30 0 0.305096f
c133 24 0 0.773172f
c134 20 0 0.451996f
c135 16 0 0.283219f
c136 12 0 0.512355f
c137 8 0 0.292632f
c138 4 0 0.318873f
c139 1 0 0.0701213f
r140 78 112 0.0188889
r141 59 76 0.17
r142 59 60 0.0120155
r143 57 74 0.17
r144 57 58 0.0120155
r145 55 73 0.17
r146 55 56 0.0120155
r147 53 72 0.17
r148 53 54 0.0120155
r149 50 71 0.17
r150 48 70 0.17
r151 48 49 0.0120155
r152 41 77 0.113446
r153 40 41 0.2975
r154 39 112 0.0216719
r155 38 40 0.0474919
r156 38 39 0.141667
r157 35 60 0.0329425
r158 34 42 0.0345776
r159 31 102 0.0469368
r160 30 60 0.0329425
r161 25 58 0.0329425
r162 24 102 0.0469368
r163 21 56 0.0329425
r164 20 58 0.0329425
r165 17 54 0.0329425
r166 16 56 0.0329425
r167 12 54 0.0329425
r168 9 49 0.0329425
r169 4 49 0.0329425
r170 1 42 0.00206813
r171 1 77 0.0930657
r172 1 102 0.00154545
r173 1 75 0.0695455
r174 1 50 0.0120155
r175 1 8 0.0329425
r176 1 13 0.0329425
r177 1 46 0.04675
r178 1 42 0.0255
r179 1 34 0.17425
r180 1 35 0.07225
r181 1 30 0.12325
r182 1 31 0.153
r183 1 24 0.15725
r184 1 25 0.1275
r185 1 20 0.204
r186 1 21 0.20825
r187 1 16 0.12325
r188 1 17 0.13175
r189 1 12 0.19975
r190 1 13 0.25075
r191 1 8 0.21675
r192 1 9 0.03825
r193 1 4 0.15725
.ends

.subckt PM_DFRRSX1%nCLK 2 4 5 7 10 12 15 17 18 19 22 25 26 30 35 37 38 39 40 45
+ 48 49 50 51 59 64 71 73 77 82 83 84 87 88 89 92 96 99 103 112 114 115 118
c219 118 0 0.0416925f
c220 115 0 0.139533f
c221 114 0 0.180759f
c222 112 0 0.234473f
c223 103 0 0.234576f
c224 99 0 0.257716f
c225 96 0 0.110313f
c226 92 0 0.0246965f
c227 89 0 0.036235f
c228 88 0 0.158079f
c229 87 0 0.0199699f
c230 84 0 0.100015f
c231 83 0 0.175963f
c232 82 0 0.0128418f
c233 77 0 0.0109069f
c234 73 0 0.24542f
c235 71 0 0.030183f
c236 64 0 0.0350232f
c237 59 0 0.0458676f
c238 51 0 0.0626158f
c239 50 0 0.0436201f
c240 49 0 0.0565576f
c241 48 0 0.0571114f
c242 45 0 0.109079f
c243 40 0 0.140182f
c244 39 0 0.0790701f
c245 38 0 0.403399f
c246 37 0 0.067508f
c247 35 0 0.500891f
c248 26 0 0.894753f
c249 25 0 0.417577f
c250 22 0 0.353047f
c251 19 0 0.0853732f
c252 18 0 0.191788f
c253 17 0 0.238484f
c254 12 0 0.517906f
c255 10 0 0.214024f
c256 5 0 0.239493f
c257 4 0 0.0746514f
c258 2 0 0.101781f
r259 96 118 0.0566888
r260 93 115 15.2843
r261 93 114 15.2843
r262 92 93 7
r263 88 112 15.2843
r264 87 89 0.0519666
r265 87 88 7
r266 83 106 6.94444
r267 82 84 0.0519666
r268 82 83 7
r269 80 84 0.410833
r270 77 80 0.0519666
r271 77 78 7
r272 72 103 15.2778
r273 71 74 0.0141667
r274 71 73 0.0519666
r275 71 72 7
r276 69 73 0.7225
r277 68 99 20.8333
r278 67 69 0.0519666
r279 67 68 7
r280 64 67 0.0141667
r281 58 92 0.0637181
r282 58 59 0.349623
r283 56 59 0.0500053
r284 56 89 0.0920833
r285 50 74 0.0216719
r286 50 51 0.198333
r287 48 64 0.0216719
r288 48 49 0.198333
r289 46 51 0.0474919
r290 46 118 0.085
r291 45 49 0.0474919
r292 45 63 0.2125
r293 40 42 20.8333
r294 38 39 19.9667
r295 35 115 152.083
r296 32 42 1.46822
r297 32 114 68.75
r298 30 112 45.8333
r299 26 40 1.46822
r300 26 39 333.333
r301 25 78 53.4085
r302 25 38 145.833
r303 20 106 6.3741
r304 20 22 95.8333
r305 18 78 23.781
r306 18 19 58.3333
r307 17 19 13.9682
r308 16 17 79.1667
r309 13 37 2.75115
r310 13 15 108.333
r311 12 16 13.9682
r312 12 15 62.5
r313 8 37 10.5861
r314 8 10 37.5
r315 5 103 6.3741
r316 5 7 45.8333
r317 4 99 6.3741
r318 3 37 10.5861
r319 3 4 25
r320 2 63 0.0519666
.ends

.subckt PM_DFRRSX1%D_GND 1 8 9 10 11 12 13 35 38 40 41 48 58 70 79
c85 79 0 0.41326f
c86 70 0 0.688791f
c87 58 0 0.838051f
c88 49 0 0.0701213f
c89 48 0 0.356487f
c90 41 0 0.650894f
c91 40 0 0.172735f
c92 39 0 0.0779126f
c93 38 0 0.690825f
c94 36 0 0.0701213f
c95 35 0 0.323127f
c96 13 0 0.156921f
c97 12 0 0.187601f
c98 10 0 0.157112f
c99 9 0 0.18453f
c100 8 0 0.146842f
c101 1 0 0.140243f
r102 48 49 0.0329425
r103 47 49 0.0329425
r104 40 43 0.000441044
r105 40 41 0.000441044
r106 38 39 0.0359928
r107 37 39 0.0359928
r108 35 36 0.0329425
r109 34 36 0.0329425
r110 26 49 0.0120155
r111 18 39 0.00935391
r112 14 36 0.0120155
r113 13 30 0.146389
r114 12 26 0.165278
r115 11 40 0.108611
r116 10 22 0.146389
r117 9 18 0.13175
r118 8 14 0.146389
r119 1 30 0.0120155
r120 1 70 0.0329425
r121 1 75 0.0329425
r122 1 22 0.0120155
r123 1 58 0.0329425
r124 1 63 0.0329425
r125 1 79 0.08075
r126 1 75 0.085
r127 1 70 0.1105
r128 1 47 0.2125
r129 1 48 0.119
r130 1 43 0.204
r131 1 41 0.1275
r132 1 63 0.2295
r133 1 58 0.238
r134 1 37 0.17425
r135 1 38 0.14875
r136 1 34 0.17425
r137 1 35 0.15725
.ends

.subckt PM_DFRRSX1%CLK 2 4 7 9 10 11 15 21 23 25 26 31 34 36 38 39 42 43 45 54
+ 55 61 62 67 69 70 73 78 80 85 97 101
c216 101 0 0.112206f
c217 97 0 0.583202f
c218 85 0 0.172962f
c219 80 0 0.167941f
c220 78 0 0.213146f
c221 73 0 0.0825652f
c222 70 0 0.156978f
c223 69 0 0.0402463f
c224 67 0 0.258474f
c225 62 0 0.170938f
c226 61 0 0.0402374f
c227 55 0 0.19957f
c228 54 0 0.0286355f
c229 45 0 0.0800147f
c230 43 0 0.149766f
c231 42 0 0.0868344f
c232 39 0 0.0658678f
c233 38 0 0.0602383f
c234 36 0 0.0352071f
c235 34 0 0.0520967f
c236 31 0 0.131858f
c237 26 0 0.0913708f
c238 23 0 0.262249f
c239 21 0 0.415358f
c240 15 0 0.259827f
c241 11 0 0.848587f
c242 10 0 0.0873382f
c243 9 0 0.675442f
c244 7 0 0.358007f
c245 4 0 0.0883773f
r246 73 101 0.0566888
r247 70 97 15.2843
r248 69 70 7
r249 67 92 22.2222
r250 66 67 7
r251 62 91 5.6243
r252 61 62 7
r253 59 88 9.72222
r254 59 85 4.16667
r255 58 59 7
r256 54 55 7
r257 52 83 4.16667
r258 52 80 9.72222
r259 51 52 7
r260 48 78 15.2778
r261 47 48 7
r262 45 47 0.153
r263 44 101 0.332917
r264 42 44 0.127691
r265 42 43 0.0373782
r266 38 66 0.128974
r267 37 69 0.0839666
r268 37 38 0.188978
r269 36 58 0.129375
r270 35 61 0.193182
r271 35 36 0.141667
r272 34 51 0.0974771
r273 33 54 0.131376
r274 33 34 0.255134
r275 32 42 0.0168885
r276 31 45 0.0142585
r277 31 32 0.425
r278 27 39 0.0200616
r279 27 43 0.736667
r280 26 55 20.8333
r281 23 92 6.3741
r282 23 25 45.8333
r283 19 91 6.22724
r284 19 21 112.5
r285 18 88 6.3741
r286 18 97 233.333
r287 13 26 14.7074
r288 13 15 50
r289 12 80 6.3741
r290 11 85 6.3741
r291 11 12 322.917
r292 9 83 6.3741
r293 9 10 233.333
r294 5 78 6.3741
r295 5 7 91.6667
r296 4 78 6.3741
r297 3 10 13.9682
r298 3 4 29.1667
r299 2 39 0.0540462
.ends

.subckt PM_DFRRSX1%nMQI 3 4 5 7 10 13 14 15 17 19 20 25 26 30 31 32 33 36 38 42
+ 44 46 48 53 56 57 60
c135 60 0 0.229677f
c136 57 0 0.108161f
c137 56 0 0.0979275f
c138 53 0 0.266732f
c139 48 0 0.0355394f
c140 46 0 0.0741707f
c141 44 0 0.0299565f
c142 42 0 0.0221315f
c143 38 0 0.101802f
c144 36 0 0.0220643f
c145 33 0 0.0407754f
c146 32 0 0.00607067f
c147 31 0 0.0502255f
c148 30 0 0.00875887f
c149 26 0 0.0683953f
c150 25 0 0.0717506f
c151 20 0 0.0844447f
c152 19 0 0.111177f
c153 17 0 0.0220983f
c154 15 0 0.0115525f
c155 14 0 0.169881f
c156 13 0 0.0318782f
c157 10 0 0.35794f
c158 5 0 0.250502f
r159 53 63 35
r160 52 53 7
r161 49 60 16.6667
r162 48 49 7
r163 45 48 0.0472222
r164 45 46 0.0377999
r165 43 57 0.103889
r166 43 44 0.0004726
r167 41 56 0.103889
r168 41 42 0.0297796
r169 34 36 0.10625
r170 32 33 0.292956
r171 31 32 0.0500053
r172 30 52 0.0300032
r173 30 31 0.269167
r174 26 52 0.0200021
r175 25 45 0.0216719
r176 24 33 0.0500053
r177 24 25 0.290417
r178 23 44 0.0497087
r179 23 46 0.155833
r180 21 42 0.015029
r181 20 44 0.0497087
r182 20 21 0.580833
r183 19 42 0.0297796
r184 18 19 0.4675
r185 17 36 0.00499195
r186 16 38 0.0201085
r187 16 17 0.085
r188 14 18 0.0474919
r189 14 15 0.495833
r190 13 15 0.0474919
r191 12 34 0.00499195
r192 12 13 0.3825
r193 8 63 4.19369
r194 8 10 93.75
r195 5 60 6.3741
r196 5 7 45.8333
r197 4 26 0.0991667
r198 3 38 0.0588915
.ends

.subckt PM_DFRRSX1%noxref_7 4 5 6 8 9 15 16
c33 16 0 0.0654594f
c34 15 0 0.0838255f
c35 9 0 0.133454f
c36 8 0 0.127196f
r37 9 16 0.0991667
r38 8 15 0.240833
r39 6 9 0.132785
r40 5 16 0.0566888
r41 5 15 0.0566888
r42 4 8 0.149763
.ends

.subckt PM_DFRRSX1%MQI 2 5 9 10 11 14 17 19 20 23 26 27 30 32 33 34 35 36 38 40
+ 44 46 47 49 57 62 64 65 66 69 71 74 79 81 87
c180 87 0 0.239197f
c181 81 0 0.217218f
c182 79 0 0.205357f
c183 71 0 0.0588015f
c184 69 0 0.017854f
c185 66 0 0.0825241f
c186 65 0 0.156819f
c187 64 0 0.0398361f
c188 62 0 0.0387394f
c189 57 0 0.0183982f
c190 49 0 0.0730031f
c191 47 0 0.225913f
c192 46 0 0.0202495f
c193 44 0 0.0226445f
c194 40 0 0.0272637f
c195 38 0 0.0357891f
c196 36 0 0.0480493f
c197 35 0 0.0383189f
c198 34 0 0.112803f
c199 33 0 0.0460428f
c200 32 0 0.0820029f
c201 30 0 0.123704f
c202 27 0 0.0994195f
c203 26 0 0.0734633f
c204 23 0 0.358423f
c205 20 0 0.351146f
c206 19 0 0.146732f
c207 17 0 0.186159f
c208 11 0 0.0774087f
c209 10 0 0.32128f
c210 9 0 0.320981f
r211 74 90 0.0995684
r212 69 71 0.0519666
r213 69 70 7
r214 65 87 15.2843
r215 64 66 0.0519666
r216 64 65 7
r217 62 71 0.226667
r218 55 81 12.5
r219 54 57 0.0519666
r220 54 55 7
r221 52 79 11.1111
r222 51 52 7
r223 49 51 0.15465
r224 46 47 7
r225 43 44 0.17
r226 40 66 0.198333
r227 37 40 0.0474919
r228 37 38 0.0920833
r229 36 43 0.231597
r230 35 36 0.0738158
r231 34 74 0.0530917
r232 33 38 0.0474919
r233 33 34 0.141667
r234 32 36 0.0689167
r235 31 32 0.375417
r236 30 90 0.0174438
r237 29 44 0.0500053
r238 29 30 0.51
r239 27 31 0.0474919
r240 27 57 0.2125
r241 26 46 0.0519666
r242 25 49 0.0138203
r243 25 26 0.481667
r244 22 47 29.1667
r245 22 23 22.2287
r246 20 70 44.7123
r247 19 24 27.168
r248 19 20 22.2091
r249 15 24 2.21054
r250 15 17 37.5
r251 14 87 45.8333
r252 10 81 6.3741
r253 10 11 114.583
r254 7 79 6.3741
r255 7 9 52.0833
r256 6 11 13.9682
r257 6 9 66.6667
r258 5 23 41.6667
r259 2 62 0.0517479
r260 2 35 0.00223684
.ends

.subckt PM_DFRRSX1%noxref_11 3 4 5 7 9 12
c25 12 0 0.0957602f
c26 9 0 0.0831176f
c27 7 0 0.106191f
c28 5 0 0.0658955f
c29 4 0 0.0789301f
r30 12 14 0.155833
r31 8 14 0.00499195
r32 7 19 0.0216719
r33 7 8 0.3825
r34 6 9 0.0164797
r35 5 12 0.00499195
r36 5 6 0.439167
r37 4 19 0.0188889
r38 3 9 0.0697601
.ends

.subckt PM_DFRRSX1%nSQI 3 4 7 11 15 20 23 27 30 33 34 37 38 39 40 42 47 48 49 55
+ 59 61 62 65 66 67 70 71 76 77 79 97
c187 97 0 0.140374f
c188 79 0 0.416846f
c189 77 0 0.107736f
c190 71 0 0.209669f
c191 70 0 0.0326002f
c192 67 0 0.0448649f
c193 66 0 0.210377f
c194 65 0 0.0266123f
c195 62 0 0.134245f
c196 61 0 0.0483588f
c197 59 0 0.0216051f
c198 55 0 0.0684292f
c199 49 0 0.0621121f
c200 47 0 0.0704546f
c201 42 0 0.0167084f
c202 40 0 0.0730965f
c203 39 0 0.0284942f
c204 38 0 0.0370535f
c205 37 0 0.0461924f
c206 34 0 0.0923687f
c207 33 0 0.067729f
c208 30 0 0.096959f
c209 27 0 0.152487f
c210 23 0 0.254926f
c211 20 0 0.226523f
c212 15 0 0.408144f
c213 11 0 0.282361f
c214 7 0 0.372113f
c215 3 0 0.0955822f
r216 96 97 0.0772445
r217 76 96 0.06375
r218 71 86 12.5
r219 70 73 0.0519666
r220 70 71 7
r221 67 73 0.255
r222 66 82 15.2778
r223 65 67 0.0519666
r224 65 66 7
r225 62 80 4.16667
r226 62 79 15.2843
r227 61 63 0.131739
r228 61 62 7
r229 58 77 0.113333
r230 58 59 0.0004726
r231 48 49 0.188978
r232 46 47 0.368467
r233 43 59 0.0497087
r234 42 63 0.0138203
r235 42 43 0.141667
r236 41 48 0.034
r237 40 59 0.0497087
r238 40 41 0.580833
r239 39 46 0.21582
r240 38 55 0.0142585
r241 38 39 0.304583
r242 37 39 0.04457
r243 36 52 0.0144758
r244 36 37 0.085
r245 34 49 0.034
r246 34 97 0.290417
r247 33 96 0.025958
r248 32 47 0.0500053
r249 32 33 0.198333
r250 29 30 18.75
r251 25 27 25
r252 21 86 6.3741
r253 21 23 50
r254 18 30 1.46822
r255 18 20 58.3333
r256 17 82 6.3741
r257 17 20 45.8333
r258 13 29 1.46822
r259 13 15 91.6667
r260 12 80 6.3741
r261 11 29 12.5
r262 11 12 102.083
r263 9 27 1.46822
r264 9 79 154.167
r265 5 25 1.46822
r266 5 7 97.9167
r267 4 55 0.119
r268 3 52 0.112732
.ends

.subckt PM_DFRRSX1%SQI 2 5 7 8 9 11 13 15 17 18 19 20 21 24 28 31 33 35 36 39 40
+ 43 45 48 50 55 62 63 64 67
c160 67 0 0.144663f
c161 64 0 0.0515891f
c162 63 0 0.192584f
c163 62 0 0.0156633f
c164 55 0 0.091566f
c165 50 0 0.0289465f
c166 48 0 0.196234f
c167 45 0 0.0525544f
c168 43 0 0.0720438f
c169 40 0 0.166337f
c170 39 0 0.0498118f
c171 36 0 0.0927604f
c172 35 0 0.110513f
c173 33 0 0.0649369f
c174 31 0 0.127246f
c175 28 0 0.282949f
c176 24 0 0.426911f
c177 21 0 0.101785f
c178 20 0 0.192641f
c179 19 0 0.084487f
c180 18 0 0.548865f
c181 17 0 0.138708f
c182 15 0 0.382185f
c183 13 0 0.245815f
c184 9 0 0.251946f
c185 8 0 0.0694408f
c186 7 0 0.280297f
c187 5 0 0.289915f
r188 62 64 0.0519666
r189 62 63 7
r190 60 67 0.207778
r191 57 60 0.1275
r192 54 55 0.14875
r193 47 50 0.0519666
r194 47 48 7
r195 45 60 0.06375
r196 45 64 0.262083
r197 43 57 0.00499195
r198 42 55 0.00499195
r199 42 43 0.184167
r200 40 74 15.2843
r201 39 40 7
r202 37 39 0.0708333
r203 36 54 0.00499195
r204 35 37 0.0538335
r205 35 36 0.53125
r206 33 54 0.0425
r207 33 50 0.31875
r208 32 63 20.8333
r209 30 48 20.8333
r210 30 31 0.139
r211 26 28 54.1667
r212 22 24 112.5
r213 21 32 14.7074
r214 20 26 13.9682
r215 20 21 37.5
r216 18 22 13.9682
r217 18 19 162.5
r218 17 19 13.9682
r219 17 74 43.75
r220 15 31 14.6202
r221 14 15 129.167
r222 12 31 14.6202
r223 12 13 87.5
r224 9 14 13.9682
r225 9 11 29.1667
r226 7 13 13.9682
r227 7 8 79.1667
r228 3 8 13.9682
r229 3 5 58.3333
r230 2 37 0.0928663
.ends

.subckt PM_DFRRSX1%Q 2 9 13
c28 13 0 0.173885f
c29 9 0 0.0348635f
c30 2 0 0.152332f
r31 11 13 0.259722
r32 9 11 0.0377999
r33 9 10 0.0377999
r34 2 10 0.198333
.ends

.subckt PM_DFRRSX1%QN 2 8 12 13 16
c15 16 0 0.170856f
c16 13 0 0.210862f
c17 8 0 0.416366f
c18 2 0 0.375733f
r19 16 19 0.0357443
r20 12 13 0.0802778
r21 9 12 0.0141667
r22 8 19 0.0165139
r23 7 13 0.00499195
r24 7 8 0.434444
r25 3 9 0.00499195
r26 2 3 0.358889
.ends

.subckt PM_DFRRSX1%iCLK 7 11 14 16 18 21 24
c30 24 0 0.312705f
c31 21 0 0.183091f
c32 18 0 0.0517953f
c33 16 0 0.114837f
c34 15 0 0.459225f
c35 14 0 0.0876725f
c36 11 0 0.263214f
c37 7 0 0.210987f
r38 21 25 15.3561
r39 21 24 15.3561
r40 18 21 7
r41 15 16 21.875
r42 15 25 135.417
r43 14 24 102.083
r44 13 14 21.4286
r45 11 16 54.1667
r46 7 13 37.5
.ends

.subckt PM_DFRRSX1%D 2 3 5 6 8 10 13 15
c42 15 0 0.0299033f
c43 13 0 0.328795f
c44 8 0 0.194823f
c45 6 0 0.166935f
c46 3 0 0.201191f
c47 2 0 0.600293f
r48 13 18 24.9252
r49 13 15 7
r50 8 10 41.6667
r51 7 18 7.67064
r52 6 8 13.9682
r53 6 7 27.0833
r54 3 5 25
r55 2 13 15.2206
r56 1 3 13.9682
r57 1 2 193.75
.ends

.subckt PM_DFRRSX1%RN 1 3 5 8 14 18 20 25 26 28 31 33 36 38 40 42 45 51 54 56 57
+ 60 64 70 73
c191 73 0 1.967f
c192 70 0 0.178909f
c193 64 0 0.135395f
c194 60 0 0.148915f
c195 57 0 0.0553185f
c196 56 0 0.019684f
c197 54 0 0.157531f
c198 51 0 0.0146417f
c199 45 0 0.0863201f
c200 42 0 0.0421697f
c201 40 0 0.0147598f
c202 38 0 0.0226062f
c203 36 0 0.160926f
c204 33 0 0.0436457f
c205 31 0 0.051689f
c206 28 0 0.0288775f
c207 26 0 0.0833536f
c208 25 0 0.100748f
c209 20 0 0.0867462f
c210 18 0 0.399141f
c211 14 0 0.405842f
c212 8 0 0.374992f
c213 5 0 0.0929883f
c214 1 0 0.334924f
r215 60 77 15.2843
r216 59 60 7
r217 57 59 0.151163
r218 54 73 15.2843
r219 53 56 0.0519666
r220 53 54 7
r221 49 70 6.94444
r222 48 51 0.0519666
r223 48 49 7
r224 41 67 15.2843
r225 41 64 4.16667
r226 40 42 0.0519666
r227 40 41 7
r228 36 63 15.2843
r229 35 38 0.0519666
r230 35 36 7
r231 32 45 0.134835
r232 32 33 0.141667
r233 31 57 0.0132091
r234 30 31 0.4675
r235 28 57 0.0378649
r236 28 56 0.0920833
r237 26 30 0.0474919
r238 26 51 0.283333
r239 25 45 0.0535861
r240 24 25 0.304583
r241 22 33 0.0500053
r242 22 42 0.247917
r243 20 24 0.0474919
r244 20 38 0.304583
r245 18 77 108.333
r246 12 70 6.3741
r247 12 14 95.8333
r248 11 64 6.3741
r249 11 73 704.167
r250 8 67 95.8333
r251 5 63 29.1667
r252 1 5 13.9682
r253 1 3 45.8333
.ends

.subckt PM_DFRRSX1%SN 1 3 4 6 9 11 13 14 15 16 18 21 26 27 29 30 32 33 35 36 38
+ 40 43 44 48 51 52 54 57 62
c172 62 0 0.205541f
c173 57 0 0.22794f
c174 52 0 0.139487f
c175 51 0 0.0571471f
c176 48 0 0.00901912f
c177 44 0 0.276986f
c178 43 0 0.0127015f
c179 40 0 0.0761447f
c180 38 0 0.0145161f
c181 36 0 0.0381508f
c182 35 0 0.0413033f
c183 33 0 0.262286f
c184 32 0 0.0932107f
c185 30 0 0.0209043f
c186 29 0 0.0325115f
c187 27 0 0.0350053f
c188 26 0 0.017204f
c189 21 0 0.162593f
c190 16 0 0.222297f
c191 15 0 0.0728849f
c192 14 0 0.319773f
c193 13 0 0.450185f
c194 11 0 0.186323f
c195 4 0 0.260216f
c196 1 0 0.193362f
r197 52 63 15.2843
r198 52 62 15.2843
r199 51 54 0.0712525
r200 51 52 7
r201 49 51 0.00419132
r202 44 60 29.2848
r203 43 46 0.0519666
r204 43 44 7
r205 39 57 15.2778
r206 38 40 0.0519666
r207 38 39 7
r208 35 36 0.207822
r209 34 48 0.0359928
r210 33 49 0.0265253
r211 33 34 1.28917
r212 32 47 0.0945947
r213 31 48 0.00935391
r214 31 32 0.205417
r215 29 48 0.0359928
r216 29 30 0.205417
r217 28 35 0.156579
r218 27 47 0.0105365
r219 27 28 0.2125
r220 26 30 0.0474919
r221 26 46 0.085
r222 23 36 0.0500053
r223 23 40 0.255
r224 19 21 25
r225 16 18 41.6667
r226 14 16 13.9682
r227 14 15 85.4167
r228 13 15 13.9682
r229 12 21 1.46822
r230 12 13 166.667
r231 11 19 1.46822
r232 11 63 66.6667
r233 9 62 43.75
r234 4 57 6.3741
r235 4 6 45.8333
r236 1 60 5.13052
r237 1 3 39.5833
.ends

